US04147863
To 15 ml of chloroform was added 1.218 g of phosphorus pentachloride, and the phosphorus pentachloride was dissolved therein by warming. To the solution maintained at 10°-20° C. was added 0.929 g of quinoline. Five minutes later, the temperature was lowered to -10°--20° C., and to the mixture was added 2.7 g of benzhydryl 7-phenoxyacetamido-3-(1-methyl-1H-tetrazol-5-yl)vinyl-3-cephem-4-carboxylate. The mixture was then stirred for 10 minutes and at room temperature for one hour. The mixture was then cooled to 0° C., and to this was added 5.4 ml of n-propanol. The resulting mixture was stirred at room temperature for one hour and poured into ice-water. To this was further added an appropriate amount of chloroform. The precipitated crystals were collected by filtration and dried to yield 1.3 g of benzhydryl 7-amino-3-(1-methyl-1H-tetrazol-5-yl)vinyl-3-cephem-4-carboxylate hydrochloride. To the obtained hydrochloride was added a mixture of a dilute aqueous sodium hydrogencarbonate solution and ethyl acetate, and the ethyl acetate layer was separated. From the ethyl acetate layer, there was obtained the 7-amino base.

reactant | phosphorus pentachloride | 1.218 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | quinoline | 0.929 g | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | benzhydryl 7-phenoxyacetamido-3-(1-methyl-1H-tetrazol-5-yl)vinyl-3-cephem-4-carboxylate | 2.7 g | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=CC2=NN=NN2C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C32H28N6O5S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | n-propanol | 5.4 ml | C(CC)O | C3H8O
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | benzhydryl 7-amino-3-(1-methyl-1H-tetrazol-5-yl)vinyl-3-cephem-4-carboxylate hydrochloride | 1.3 g | Cl.NC1[C@@H]2N(C(=C(CS2)C=CC2=NN=NN2C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | InChI=1S/C24H22N6O3S.ClH/c1-29-18(26-27-28-29)13-12-17-14-34-23-19(25)22(31)30(23)20(17)24(32)33-21(15-8-4-2-5-9-15)16-10-6-3-7-11-16;/h2-13,19,21,23H,14,25H2,1H3;1H/t19?,23-;/m1./s1
